US05310743
d) (2R*,4S*)-2-Benzyl-1-(3,5-dichlorobenzoyl)-N-(2-phenylethyl)-N-trifluoroacetyl-4-piperidinamine
189 mg (0.992 mmol) of 3,5-dichlorobenzoic acid are reacted in analogy to Example 2a first with 0.108 ml (1.49 mmol) of thionyl chloride and subsequently with 155 mg (0.397 mmol) of (2R*,4S*)-2-benzyl-N-(2-phenylethyl)-N-trifluoroacetyl-4-piperidinamine and 166 μl (1.19 mmol) of triethylamine to give the title compound (135 mg, 60%). TLC: methylene chloride/methanol/conc. ammonia (1000:50:1) Rf =0.70, FD-MS: M+ =562, 564.

reactant | 3,5-dichlorobenzoic acid | 0.992 mmol, 189 mg | ClC=1C=C(C(=O)O)C=C(C1)Cl | C7H4Cl2O2
reactant | thionyl chloride | 1.49 mmol, 0.108 ml | S(=O)(Cl)Cl | Cl2OS
reactant | (2R*,4S*)-2-benzyl-N-(2-phenylethyl)-N-trifluoroacetyl-4-piperidinamine | 0.397 mmol, 155 mg | C(C1=CC=CC=C1)[C@H]1NCC[C@@H](C1)N(C(C(F)(F)F)=O)CCC1=CC=CC=C1 | C22H25F3N2O
reactant | triethylamine | 1.19 mmol, 166 μl | C(C)N(CC)CC | C6H15N
product | (2R*,4S*)-2-Benzyl-1-(3,5-dichlorobenzoyl)-N-(2-phenylethyl)-N-trifluoroacetyl-4-piperidinamine | 135 mg, 60% | C(C1=CC=CC=C1)[C@H]1N(CC[C@@H](C1)N(C(C(F)(F)F)=O)CCC1=CC=CC=C1)C(C1=CC(=CC(=C1)Cl)Cl)=O | C29H27Cl2F3N2O2
